US05275939
A 1 ml quantity of 0.5% ganglioside GDla solution, 1 ml of 40 mM acetate buffer (pH 5.0) and 1 ml of sterilized water were mixed together, and to the mixture was added 1 ml of aqueous solution of Isozyme L (8 U/ml). The mixture was allowed to react at 37° C. for 1 hour, and 1/10 part by volume of chloroform was added thereto to stop the enzyme reaction. Asialo GM1 was extracted from the reaction solution with use of a mixture of chloroform and methanol (2:1) and then lyophilized, giving 2.0 mg of asialo GM1 as a white powder.

reactant | ganglioside GDla | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](COC1C(C(C(C(O1)CO)OC2C(C(C(C(O2)CO)OC3C(C(C(C(O3)CO)O)OC4C(C(C(C(O4)CO)OC5(CC([C@H](C(O5)[C@H]([C@H](CO)O)O)NC(=O)C)O)C(=O)[O-])O)O)NC(=O)C)OC6(CC([C@H](C(O6)[C@H]([C@H](CO)O)O)NC(=O)C)O)C(=O)[O-])O)O)O)[C@@H](/C=C/CCCCCCCCCCCCCCC)O.[Na+].[Na+]
reactant | acetate | 40 mM, 1 ml, pH 5.0 | C(C)(=O)[O-]
reactant | water | 1 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | asialo GM1 | 2.0 mg | CCCCCCCCCCCCCCCCCC(=O)NC(COC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O)O)O)O)C(/C=C/CCCCCCCCCCCCC)O | C62H114N2O23
